US04855086
N-isobutyl 7-(3'-propenylphenyl)-(2E)-hepten-6-ynamide was prepared from 5-(3'-propenylphenyl)-4-pentyn-1-al and N-isobutyl acetamidotriphenylphosphonium chloride as in Example 9 and semi-hydrogenated as in Example 9 to give N-isobutyl 7-(3'-propenylphenyl)-(2E,6Z)-heptadienamide.

reactant | 5-(3'-propenylphenyl)-4-pentyn-1-al | C(=CC)C=1C=C(C=CC1)C#CCCC=O | C14H14O
reactant | N-isobutyl acetamidotriphenylphosphonium chloride | [Cl-].C(C(C)C)N(C(C)=O)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | N-isobutyl 7-(3'-propenylphenyl)-(2E)-hepten-6-ynamide | C(C(C)C)NC(\C=C\CCC#CC1=CC(=CC=C1)C=CC)=O | C20H25NO
